US07238724B2
ethyl (5S)-5-ethyl-L-prolinate
Ethyl (2S)-5-ethyl-3,4-dihydro-2H-pyrrole-2-carboxylate dissolved in ethanol (32 mL) was stirred with 0.30 g of 10% Pd/C and under hydrogen (60 psi) for 16 hours. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure to provide the titled compound. MS (CI) m/z 172 (M+H)+.

reactant | Ethyl (2S)-5-ethyl-3,4-dihydro-2H-pyrrole-2-carboxylate | C(C)C=1CC[C@H](N1)C(=O)OCC | C9H15NO2
solvent | ethanol | 32 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.30 g | [Pd] | Pd
product | ethyl (5S)-5-ethyl-L-prolinate | C(C)[C@H]1CC[C@H](N1)C(=O)OCC | C9H17NO2
